US04481360
4-Phenyl-5-(4-pyridinyl)-4H-1,2,4-triazole-3-thiol
A one liter round bottomed flask, fitted with a reflux condenser, nitrogen inlet and magnetic stirrer bar, is charged with 40.5 g (0.30 mol) of phenyl isothiocyanate and 41.845 g (0.30 mol) of isonicotinic acid hydrazide in 300 ml of absolute ethanol. The mixture is heated to reflux for 3 hours. The resulting solid is filtered and washed with ethanol and then added to an aqueous solution of sodium hydroxide (prepared by dissolving 16.8 g, 0.42 mol, of sodium hydroxide in 240 ml of water). The mixture is heated to reflux for 5 hours and then stirred at ambient temperature for 18 hours. The solution is treated with 100 ml of distilled water to dissolve the gel which has formed. The solution is made acidic (to pH 2) with concentrated HCl and cooled with ice. The solid is filtered, taken up in 600 ml of warm absolute ethanol and filtered again to afford approximately 70 g (92%) of slightly wet titled product with a melting point of 288°-290° C. IR (nujol shows a peak at 1900 cm-1 ; UV (95% ethanol) shows peaks at 257 nm and 317 nm; NMR (DMSO-d6 δ) 8.5 and 7.2-7.6; the mass spectra shows a strong molecular ion peak at m/e 254, with fragment ions at 253, 195 and 149.

reactant | phenyl isothiocyanate | 0.30 mol, 40.5 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | isonicotinic acid hydrazide | 0.30 mol, 41.845 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | sodium hydroxide | 0.42 mol, 240 ml, 16.8 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-Phenyl-5-(4-pyridinyl)-4H-1,2,4-triazole-3-thiol | C1(=CC=CC=C1)N1C(=NN=C1C1=CC=NC=C1)S | C13H10N4S
